US07435815B2
N-(2-Cyano-ethyl)-N-ethyl-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetamide
prepared by reaction of [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid with 3-ethylamino-propionitrile

reactant | [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C=1C(=CC=CC1)C)CC(=O)O | C16H17NO5S
reactant | 3-ethylamino-propionitrile | C(C)NCCC#N | C5H10N2
product | N-(2-Cyano-ethyl)-N-ethyl-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetamide | C(#N)CCN(C(CN(S(=O)(=O)C=1C(=CC=CC1)C)C1=C(C=CC=C1)OC)=O)CC | C21H25N3O4S
